data/specific_train_final.csv
"CC(C(C=O)O[N+](=O)[O-])[O:20][O:21]N=O>>CC(C(C=O)O[N+](=O)[O-])[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(Cl)Cl)O[O:20].[N+](=O)([O-])[O:10]>>C(C(Cl)Cl)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:24][O:23][O:22].[CH3:11][C:10]1([CH2:9][CH:8]2[CH:7]1[CH2:6][CH2:5][C:3]([CH:17]([CH2:16][CH2:15][C:13]2=[CH2:14])[O:18][N+:19](=[O:20])[O-:21])([CH3:4])[O:2][O:1])[CH3:12]>>[H:24][O:1][O:2][C:3]1([CH2:5][CH2:6][CH:7]2[CH:8]([CH2:9][C:10]2([CH3:11])[CH3:12])[C:13](=[CH2:14])[CH2:15][CH2:16][CH:17]1[O:18][N+:19](=[O:20])[O-:21])[CH3:4].[O:22][O:23] 23,24-23; 24,23-24,1; 1-1,24",Room Temperature,Propagation,abstraction
"CCCC(C(C)O[O:20])O.[N:10]=O>>CCCC(C(C)O[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:8][CH:6]([O:5][O:4][O:3][N+:2](=[O:1])[O-:9])[Cl:7]>>[CH3:8][CH:6]([O:5][O:4][O:3])[Cl:7].[N+:2](=[O:1])[O-:9] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
[CH3:1][O:2][C:3](=[O:4])[O:5][CH2:6][O:7].[N:8](=[O:9])[O:10]>>[CH3:1][O:2][C:3](=[O:4])[O:5][CH2:6][O:7].[N+:8](=[O:9])[O-:10] 8-10,Room Temperature,Propagation,ha resonance
"CCC(C(C)O)O[O:20].[N+](=O)([O-])[O:10]>>CCC(C(C)O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C([O:20][O:21][O])(Cl)Cl)O>>C(C([O:20])(Cl)Cl)O.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH:21](CC)C1=CC=CC=C1.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC[CH:21]C1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C(C)(C)O)O[O:20].[N:10]=O>>CC(C(C)(C)O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].C(C(O[O:10])(Cl)Cl)(O)(Cl)Cl>>[H:20][O:10]OC(C(O)(Cl)Cl)(Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:10][C:4]1([C:8]([CH2:7][O:6][O:5]1)[CH3:9])[CH:3]([OH:11])[O:2][OH:1]>>[H:10][C:4](=[C:8]([CH3:9])[CH2:7][O:6][O:5])[CH:3]([OH:11])[O:2][OH:1] 8-8,4; 5,4-8,4; 5,4-5",Room Temperature,Propagation,retroaddition
"COC(=O)OCO[O:20].[N:10]=O>>COC(=O)OCO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C([CH:10]Br)Br.[O:20][O]>>C([CH:10]([O:20][O])Br)Br 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH:8]([C:6]([O:5][O:4][O:3][N+:2](=[O:1])[O-:12])([Cl:7])[Cl:11])([Cl:9])[Cl:10]>>[CH:8]([C:6]([O:5][O:4][O:3])([Cl:7])[Cl:11])([Cl:9])[Cl:10].[N+:2](=[O:1])[O-:12] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"CC1=C(C2(C(C([C:10]1O)OO2)O[N+](=O)[O-])C)C.[O:20][O]>>CC1=C([C:10](C2C(C1(OO2)C)O[N+](=O)[O-])(O)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(OC=O)[O:20][O:21][O].[N+](=O)[O-]>>C([O:20])OC=O.[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C(C)O)[O:20].[N+:10](=O)[O-]>>CCC(C(C)O)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C(C)O[N+](=O)[O-])O[O:20].[N:10]=O>>CCCC(C(C)O[N+](=O)[O-])O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCC(C)C(C)O[O:10]>>[H:20][O:10]OC(C)C(C)CC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:20]([O:10])[O:21][S:22](=O)=O>>[CH2:20]=[O:10].[O:21]=[S:22](=O)=O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,retroaddition
"[CH3:1][CH:2]([CH:3]([CH:8]=[O:9])[O:4][N+:5](=[O:7])[O-:6])[O:10][O:11][O:12][N+:13](=[O:15])[O-:14]>>[CH3:1][CH:2]([CH:3]([CH:8]=[O:9])[O:4][N+:5](=[O:7])[O-:6])[O:10][O:11][O:12].[N+:13](=[O:15])[O-:14] 12,13-12; 12,13-13",Room Temperature,Initiation,homolyze
"[CH3:1][C:2]([CH2:3][Cl:4])([CH:5]=[CH2:6])[O:7].[N+:9](=[O:10])[O-:8]>>[CH3:1][C:2]([CH2:3][Cl:4])([CH:5]=[CH2:6])[O:7][N+:9](=[O:10])[O-:8] 9-9,7; 7-9,7",Room Temperature,Termination,recombine
"[CH3:13][CH2:12][C:9]1=[CH:8][C:7](=[CH:6][C:3]([CH:10]1[OH:11])([CH2:2][CH3:1])[O:4][O:5])[CH3:14]>>[CH3:1][CH2:2][C:3]12[CH:6]=[C:7]([CH:8][C:9]([CH:10]1[OH:11])([O:5][O:4]2)[CH2:12][CH3:13])[CH3:14] 5-5,9; 8,9-5,9; 8,9-8",Room Temperature,Propagation,addition
"CC1=CC2([C:10](C(C1O)(OO2)C)O)C.[O:20][O]>>CC1=CC2([C:10](C(C1O)(OO2)C)(O)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21]C=CC(C)(COO)O[O:10]>>[H:20][O:10]OC(C)(COO)C=C[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC[CH:10]CO.[O:20][O]>>CCC[CH:10](CO)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)OC(C)C[O:20].[N+:10](=O)[O-]>>CC(C)OC(C)C[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(CO[N+](=O)[O-])O[O:20].[N:10]=O>>CCC(CO[N+](=O)[O-])O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:5][O:4][O:3][CH:2]([C:6](=[O:14])[C:7]([CH3:13])([CH2:8][OH:9])[O:10][O:11][H:12])[O:1]>>[H:5][O:4][O:3].[H:12][O:11][O:10][C:7]([CH3:13])([CH2:8][OH:9])[C:6](=[O:14])[CH:2]=[O:1] 1-1,2; 2,3-1,2; 2,3-3",Room Temperature,Propagation,retroaddition
